US04943585
9.3 g of 4-phenoxyphenol is dissolved in 60 ml of anhydrous dimethylformamide. 1.58 g of 80% strength sodium hydride is added, and the mixture is heated at 60° C. until no more hydrogen evolves (about 1 hour). A solution of 9.28 g of N-(1-chloromethyl)-4,5-dichloroimidazole in 30 ml of dimethylformamide is then dripped in. The mixture is stirred overnight at room temperature, after which it is poured into 500 ml of water, followed by extraction three times with methyl tert-butyl ether. The combined organic phases are washed three times with water, dried over sodium sulfate, and freed from solvent under reduced pressure. The solid residue is recrystallized from n-pentane/ether (6:1) to give N-[(p-phenoxyphenoxy)methyl]-4,5-dichloroimidazole, m.p.: 82°-83° C.

reactant | 4-phenoxyphenol | 9.3 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | N-(1-chloromethyl)-4,5-dichloroimidazole | 9.28 g | ClCN1C=NC(=C1Cl)Cl | C4H3Cl3N2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | N-[(p-phenoxyphenoxy)methyl]-4,5-dichloroimidazole | O(C1=CC=CC=C1)C1=CC=C(OCN2C=NC(=C2Cl)Cl)C=C1 | C16H12Cl2N2O2
